US04294960
Ethyl 2-iso-propoxyimino-3-oxobutyrate (syn isomer 35.4 g.), sulfuryl chloride (24.5 g.) and acetic acid (35.4 ml.) were treated in a similar manner to that of Example D-(2) to give ethyl 4-chloro-3-oxo-2-iso-propoxyiminobutyrate (syn isomer, 41.5 g.), oil.

reactant | Ethyl 2-iso-propoxyimino-3-oxobutyrate | 35.4 g | C(C)(C)ON=C(C(=O)OCC)C(C)=O | C9H15NO4
reactant | sulfuryl chloride | 24.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 35.4 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-chloro-3-oxo-2-iso-propoxyiminobutyrate | 41.5 g | ClCC(C(C(=O)OCC)=NOC(C)C)=O | C9H14ClNO4
